US04880457
Trimethyl acetonitrile (0.1 mol) in dry tetrahydrofuran (50 ml) was added dropwise with stirring to the Grignard reagent prepared form 4-chloro-iodobenzene (0.11 mol) and magnesium turnings (0.11 g atoms) in sodium dry ether (50 ml) at such a rate as to retain gentle reflux. The solution was refluxed for 4 hours, cooled to room temperature, and water (40 ml) added carefully. 2N H2SO4 (50 ml) was added and the ether solution washed with water (3×100 ml) and dried over anhydrous magnesium sulphate. Removal of the solvent gave a yellow oil which was distilled at the water pump to give tertiary butyl 4-chlorophenyl ketone (40%) as a colourless liquid b.p. 116°-128°/15 mm Hg.

reactant | Trimethyl acetonitrile | 0.1 mol | CC(C#N)(C)C | C5H9N
reactant | 4-chloro-iodobenzene | 0.11 mol | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | magnesium | 0.11 g | [Mg] | Mg
reactant | H2SO4 | 2N, 50 ml | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | sodium | 50 ml | [Na] | Na
solvent | water | 40 ml | O | H2O
product | tertiary butyl 4-chlorophenyl ketone | 40% | ClC1=CC=C(C=C1)C(=O)C(C)(C)C | C11H13ClO
